US06001831
A total of 128 g of potassium cyanate and 144 g of hydrogen chloride are metered into 700 g of sulfolane at 15-20° C. over a period of 5 hours. For this, 14.4 g of hydrogen chloride are first passed in and 12.8 g of potassium cyanate are then added; this operation is repeated 10 times, until the entire amount of hydrogen chloride and potassium cyanate has been added. 117 g of 4-chloro-N-(ethoxycarbonylmethyl)anthranilic acid are then added at 45-50° C. in the course of 2 hours. The mixture is subsequently stirred for 15 minutes. The suspension is filtered and the residue is washed free from sulfolane and salt with water. After drying, 121 g (95%) of ethyl 1,2,3,4-tetrahydro-7-chloro-2,4-dioxoquinazolin-1-ylacetate are obtained.

reactant | potassium cyanate | 128 g | [O-]C#N.[K+]
reactant | hydrogen chloride | 144 g | Cl | ClH
reactant | sulfolane | 700 g | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrogen chloride | 14.4 g | Cl | ClH
reactant | potassium cyanate | 12.8 g | [O-]C#N.[K+]
reactant | 4-chloro-N-(ethoxycarbonylmethyl)anthranilic acid | 117 g | ClC=1C=C(C(C(=O)O)=CC1)NCC(=O)OCC | C11H12ClNO4
product | ethyl 1,2,3,4-tetrahydro-7-chloro-2,4-dioxoquinazolin-1-ylacetate | 121 g, 95% | ClC1=CC=C2C(NC(N(C2=C1)CC(=O)OCC)=O)=O | C12H11ClN2O4
